US07456200B2
HOBt (823 mg, 6.09 mmol), and EDCI (1.2 g, 6.09 mmol) were added to a suspension of 2-chloro-isonicotinic acid (800 mg, 5.08 mmol) in acetonitrile (10.3 ml) at room temperature. After two h a solution of hydrazine monohydrate (0.493 ml, 10.2 mmol) in acetonitrile (5.0 ml) was added drop-wise at 0° C. After 30 min, the solvent was removed using a roto-evaporator and the residue was diluted with ethyl acetate, quenched with water, dried over sodium sulfate, filtered and concentrated to afford 2-chloro-isonicotinic acid hydrazide (493 mg, 57%, yellow solid). 1H NMR (DMSO) d (ppm): 10.21 (bs, 1H), 8.55 (d, 1H), 7.82 (s, 1H), 7.75 (d, 1H), 4.69 (bs, 2H).

reactant | HOBt | 6.09 mmol, 823 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 6.09 mmol, 1.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-chloro-isonicotinic acid | 5.08 mmol, 800 mg | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | hydrazine monohydrate | 10.2 mmol, 0.493 ml | O.NN
solvent | acetonitrile | 10.3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
product | 2-chloro-isonicotinic acid hydrazide | 493 mg, 57% | ClC=1C=C(C(=O)NN)C=CN1 | C6H6ClN3O
